US08357777B2
Synthesis of 4-(1-(methylaminooxy)propan-2-yloxy)-4-oxobutanoic acid (Compound 2.3)
2,2,5,8-Tetramethyl-4,10-dioxo-3,6,9-trioxa-5-azatridecan-13-oic acid (227 mg, 0.744 mmol) was dissolved in 4 mL TFA. The reaction mixture was stirred at room temperature for 4 h and concentrated. The crude product was purified by silica gel flash column chromatography using 12% MeOH/dichloromethane as eluent. The desired product was obtained as a colorless gel (30 mg, 0.146 mmol, 20%). 1H NMR (CD3OD, 300 MHz): δ (ppm) 1.17 (d, 3 H, J=6.6 Hz), 2.58 (s, 3 H), 2.61 (s, 3 H), 3.66 (d, 2 H, J=5.4 Hz), 5.10-5.16 (m, 1 H).

reactant | 2,2,5,8-Tetramethyl-4,10-dioxo-3,6,9-trioxa-5-azatridecan-13-oic acid | 0.744 mmol, 227 mg | CC(C)(OC(N(OCC(OC(CCC(=O)O)=O)C)C)=O)C | C13H23NO7
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(1-(methylaminooxy)propan-2-yloxy)-4-oxobutanoic acid | CNOCC(C)OC(CCC(=O)O)=O | C8H15NO5
